US06008230
To a solution of 8-(2,6-dichlorobenzoylamino)-3-hydroxymethylquinoline (300 mg) in tetrahydrofuran were added carbon tetrabromide (573 mg) and triphenylphosphine (453 mg), and the mixture was stirred for 30 minutes at ambient temperature. Insoluble material was filtered off, and the filtrate was evaporated in vacuo. The residue was purified by column chromatography on silica gel (dichloromethane) to give 3-bromomethyl-8-(2,6-dichlorobenzoylamino)quinoline (253.4 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-3-hydroxymethylquinoline | 300 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)CO)C(=CC=C1)Cl | C17H12Cl2N2O2
reactant | carbon tetrabromide | 573 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 453 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-bromomethyl-8-(2,6-dichlorobenzoylamino)quinoline | 253.4 mg | BrCC=1C=NC2=C(C=CC=C2C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C17H11BrCl2N2O
